US04436739
3-(4-Chlorophenyl)tetrahydro-5-methyl-2-(3-pyridyl)-4H-1,3-thiazin-4-one
3-(4-Chlorophenyl)tetrahydro-2-(3-pyridyl)-4H-1,3-thiazin-4-one, 3.05 g. (0.01 mole), prepared as described in Example 70, supra, was added with mechanical stirring to 40 ml. of anhydrous tetrahydrofuran maintained under a nitrogen atmosphere and then cooled to about -75° C. To the cold solution there was added, over a period of about 15-20 minutes, 4.28 ml. of a hexane solution of n-butyllithium (2.4 molar in hexane), while maintaining the reaction temperature below -70° C. After the addition was complete, the reaction mixture was stirred for about 30 minutes at a temperature of about -75° C., followed by the dropwise addition of 5 ml. of methyl iodide over a period of about 10-15 minutes. The reaction product mixture was stirred overnight while being cooled in a dry ice-acetone bath, warming gradually to about 0° C., by morning. A peach-colored solid precipitated during the night. The reaction product mixture was warmed to room temperature and methylene chloride added, forming a red solution. The solution was concentrated in vacuo. The residue thus obtained was redissolved in methylene chloride and the solution was washed twice with cold salt water and dried over annydrous sodium sulfate. The drying agent was filtered off and the filtrate concentrated in vacuo to leave a residue. The residue was taken up in ethyl acetate and passed through a layer of silica gel (400 ml.). The ethyl acetate solution so treated was concentrated in vacuo, and the oil which remained was dissolved in methylene chloride, treated with decolorizing carbon, filtered, and the filtrate concentrated to dryness in vacuo. The residue thus obtained was dissolved in ethyl ether, and, upon cooling, a solid crystallized, and was filtered off. The solid had a melting point of about 128°-130° C., and weighed 1.1 g. The solid was identified by NMR spectrum and elemental analyses as 3-(4-chlorophenyl)tetrahydro-5-methyl-2-(3-pyridyl)-4H-1,3-thiazin-4-one.

reactant | 3-(4-Chlorophenyl)tetrahydro-2-(3-pyridyl)-4H-1,3-thiazin-4-one | ClC1=CC=C(C=C1)N1C(SCCC1=O)C=1C=NC=CC1 | C15H13ClN2OS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | 2.4 molar | C(CCC)[Li]
reactant | methyl iodide | CI | CH3I
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Chlorophenyl)tetrahydro-5-methyl-2-(3-pyridyl)-4H-1,3-thiazin-4-one | ClC1=CC=C(C=C1)N1C(SCC(C1=O)C)C=1C=NC=CC1 | C16H15ClN2OS
